US07968572B2
3-hydroxy-2,2-bis(hydroxymethyl)propanoic acid
To a solution of pentaerythritol (10.0 g) in water (600 mL) was 5% platinum/carbon (hydrous article, 13.3 g). While maintaining pH of the reaction mixture to 6˜7 by means of 8% sodium hydrogen carbonate solution, it was stirred at 35° C. for 8 hours under an atmosphere of oxygen. After catalyst was filtered, and having removed, the reaction mixture was concentrated. After having put the obtained residue through ion exchange resin Amberlyst (Amberlyst: trade name) A-21 by means of 2N hydrochloric acid, it was purified by preparative medium pressure liquid chromatography W-prep 2XY (column: main column L, inject column M; automatic condition setting: dichloromethane:methanol=4:1, Rf=0.25, preparative isolation mode GR). Furthermore, the obtained residue was purified by preparative TLC (dichloromethane:methanol=4:1) to give the title compound (123 mg) having the following physical data.

reactant | pentaerythritol | 10.0 g | OCC(CO)(CO)CO | C5H12O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 600 mL | O | H2O
catalyst | platinum/carbon | 13.3 g | [Pt] | Pt
product | 3-hydroxy-2,2-bis(hydroxymethyl)propanoic acid | 123 mg | OCC(C(=O)O)(CO)CO | C5H10O5
